US08536209B2
2-Butyl-5-phenyl-oxazole-4-carboxylic acid
Prepared starting from DL-3-phenylserine hydrate following sequentially general procedures W, X with pentanoic acid, Y and Z. LC-MS-conditions 02: tR=0.95 min; [M+H]+=246.45.

reactant | DL-3-phenylserine hydrate | C1=CC=C(C=C1)C(C(C(=O)O)N)O | C9H11NO3
reactant | pentanoic acid | C(CCCC)(=O)O | C5H10O2
product | 2-Butyl-5-phenyl-oxazole-4-carboxylic acid | C(CCC)C=1OC(=C(N1)C(=O)O)C1=CC=CC=C1 | C14H15NO3
